US03937726
Example: Preparation of 4-(2'-chloroethoxy)-aniline
42 grams (1.05 mole) of sodium hydroxide were dissolved in 75 milliliters of water, and 139 grams (1 mole) of 4-nitrophenol and 235 grams (1 mole) of β-chloroethyl-p-toluene sulfonate were added, while stirring. Subsequently the reaction mixture was heated at 100°C for 4 hours. After cooling, the mixture was made alkaline by means of a solution of sodium hydroxide of 33 % strength and was diluted with about 5 liters of water. The precipitated crystalline product was filtered off with suction, washed with water and dried.

reactant | sodium hydroxide | 1.05 mole, 42 grams | [OH-].[Na+]
reactant | 4-nitrophenol | 1 mole, 139 grams | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | β-chloroethyl-p-toluene sulfonate | 1 mole, 235 grams | ClCCOS(=O)(=O)C1=CC=C(C=C1)C | C9H11ClO3S
solvent | water | 75 milliliters | O | H2O
solvent | water | about 5 liters | O | H2O
product | 4-(2'-chloroethoxy)-aniline | ClCCOC1=CC=C(N)C=C1 | C8H10ClNO
